US07176242B2
3-{[Butyl(methyl)amino]carbonyl}-5-(1,3-oxazol-2-yl)benzoic acid
To methyl 3-{[butyl(methyl)amino]carbonyl}-5-(1,3-oxazol-2-yl)benzoate (660 mg, 2.1 mmol) in tetrahydrofuran/methanol/water (1:1:1, 9 mL) is added lithium hydroxide monohydrate (175 mg, 4.2 mmol), and the reaction is stirred at room temperature 16 h. The solution is diluted in chloroform and washed with water and saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure to give the title compound. ESI MS m/z 301.1 [M−H]−.

reactant | methyl 3-{[butyl(methyl)amino]carbonyl}-5-(1,3-oxazol-2-yl)benzoate | 2.1 mmol, 660 mg | C(CCC)N(C(=O)C=1C=C(C(=O)OC)C=C(C1)C=1OC=CN1)C | C17H20N2O4
reactant | lithium hydroxide monohydrate | 4.2 mmol, 175 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran methanol water | 9 mL | O1CCCC1.CO.O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-{[Butyl(methyl)amino]carbonyl}-5-(1,3-oxazol-2-yl)benzoic acid | C(CCC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)C=1OC=CN1)C | C16H18N2O4
